* AVE SPICE Model: L-Isoleucine
* Provenance: vendored from the Applied-Vacuum-Engineering archive (pure L/C topology data).
* Backbone topology mapped to L/C tensors

* --- The Amino Source (NH3+) ---
V_amino in 0 SIN(0 1V 30THz)
L_nh3 in n_amino 1.3511297647809685e-13pH
C_nc n_amino n_alpha 4.0522706029886115e-16fF

* --- The Alpha Carbon (C-alpha) ---
L_alpha n_alpha n_alpha_out 1.1585894083442053e-13pH

* --- R-Group Filter Stub (L-Isoleucine) ---
C_r_beta n_alpha n_beta 4.576118317492612e-16fF
L_beta n_beta n_beta_split 1.2558184298205937e-13pH
C_beta_gamma1 n_beta_split n_gamma1 4.576118317492612e-16fF
L_gamma1 n_gamma1 0 1.4502764727733703e-13pH
C_beta_gamma2 n_beta_split n_gamma2 4.576118317492612e-16fF
L_gamma2 n_gamma2 n_gamma2_split 1.353047451296982e-13pH
C_gamma2_delta n_gamma2_split n_delta 4.576118317492612e-16fF
L_delta n_delta 0 1.4502764727733703e-13pH

C_cc n_alpha_out n_carboxyl_c 4.576118317492612e-16fF

* --- The Carboxyl Sink (COO-) ---
L_carboxyl_c n_carboxyl_c n_carboxyl_split 1.1585894083442053e-13pH
C_co_double n_carboxyl_split n_o_double 1.446001793287132e-16fF
L_o_double n_o_double 0 1.543351792973122e-13pH
C_co_single n_carboxyl_split out 3.605123844092135e-16fF
L_o_single out n_term 1.543351792973122e-13pH
R_load n_term 0 376.7303Ohm

* --- AC Simulation Directives ---
.ac dec 100 1G 1000G
.end
